* Created by KLayout
*** My special header ***

* cell OSS_FRAME_GIO
* pin HIZ1
* pin HIZ10
* pin HIZ11
* pin HIZ12
* pin HIZ13
* pin HIZ14
* pin HIZ15
* pin HIZ2
* pin HIZ3
* pin HIZ4
* pin HIZ5
* pin HIZ6
* pin HIZ7
* pin HIZ9
* pin OUT1
* pin OUT10
* pin OUT11
* pin OUT12
* pin OUT13
* pin OUT14
* pin OUT15
* pin OUT2
* pin OUT3
* pin OUT4
* pin OUT5
* pin OUT6
* pin OUT7
* pin OUT9
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT OSS_FRAME_GIO HIZ1 HIZ10 HIZ11 HIZ12 HIZ13 HIZ14 HIZ15 HIZ2 HIZ3 HIZ4
+ HIZ5 HIZ6 HIZ7 HIZ9 OUT1 OUT10 OUT11 OUT12 OUT13 OUT14 OUT15 OUT2 OUT3 OUT4
+ OUT5 OUT6 OUT7 OUT9 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $4 m45 *1 -1040,-600
X$4 P6 VDD OUT6 HIZ6 VSS OSS_ESD_5V_DIO
* cell instance $5 m135 *1 1040,-200
X$5 P12 VDD OUT12 HIZ12 VSS OSS_ESD_5V_DIO
* cell instance $6 m135 *1 1040,600
X$6 P14 VDD OUT14 HIZ14 VSS OSS_ESD_5V_DIO
* cell instance $7 m90 *1 600,-1040
X$7 P10 VDD OUT10 HIZ10 VSS OSS_ESD_5V_DIO
* cell instance $9 m45 *1 -1040,200
X$9 P4 VDD OUT4 HIZ4 VSS OSS_ESD_5V_DIO
* cell instance $10 m0 *1 -600,1040
X$10 P2 VDD OUT2 HIZ2 VSS OSS_ESD_5V_DIO
* cell instance $11 r270 *1 -1040,600
X$11 P3 VDD OUT3 HIZ3 VSS OSS_ESD_5V_DIO
* cell instance $12 r270 *1 -1040,-200
X$12 P5 VDD OUT5 HIZ5 VSS OSS_ESD_5V_DIO
* cell instance $13 r180 *1 600,1040
X$13 P15 VDD OUT15 HIZ15 VSS OSS_ESD_5V_DIO
* cell instance $14 r180 *1 -200,1040
X$14 P1 VDD OUT1 HIZ1 VSS OSS_ESD_5V_DIO
* cell instance $15 m0 *1 200,1040
X$15 VDD VSS OSS_ESD_5V_VDD
* cell instance $16 r90 *1 1040,200
X$16 P13 VDD OUT13 HIZ13 VSS OSS_ESD_5V_DIO
* cell instance $17 r90 *1 1040,-600
X$17 P11 VDD OUT11 HIZ11 VSS OSS_ESD_5V_DIO
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD OUT7 HIZ7 VSS OSS_ESD_5V_DIO
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD OUT9 HIZ9 VSS OSS_ESD_5V_DIO
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME_GIO

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* device instance $1 r270 *1 -130,65.5 PMOS
XM$1 VSS PAD|VDD PAD|VDD PAD|VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VDD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VSS VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r270 *1 130,65.5 NMOSE
XM$11 VDD PAD|VSS PAD|VSS PAD|VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_DIO
* pin PAD
* pin VDD
* pin OUT
* pin HIZ
* pin VSS
.SUBCKT OSS_ESD_5V_DIO PAD VDD OUT HIZ VSS
* device instance $1 m0 *1 34.6,108.3 PMOS
XM$1 \$I4 HIZ VDD VDD PMOS L=1u W=5.2u AS=14.56p AD=7.8p PS=16u PD=8.2u
* device instance $2 m0 *1 34.6,104.3 PMOS
XM$2 VDD \$I4 \$I7 VDD PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $3 m0 *1 34.6,100.3 PMOS
XM$3 \$I7 \$I5 VDD VDD PMOS L=1u W=5.2u AS=7.8p AD=34.84p PS=8.2u PD=25.8u
* device instance $4 m0 *1 42.4,94.3 PMOS
XM$4 VDD \$I7 \$9 VDD PMOS L=1u W=20.8u AS=34.84p AD=58.24p PS=25.8u PD=47.2u
* device instance $5 m0 *1 -37.2,102.5 PMOS
XM$5 \$I6 HIZ \$I8 VDD PMOS L=1u W=10.4u AS=29.12p AD=6.24p PS=26.4u PD=11.6u
* device instance $6 m0 *1 -37.2,100.3 PMOS
XM$6 \$I8 \$I5 VDD VDD PMOS L=1u W=10.4u AS=6.24p AD=40.56p PS=11.6u PD=25.8u
* device instance $7 m0 *1 -42.4,94.3 PMOS
XM$7 VDD \$I6 \$8 VDD PMOS L=1u W=20.8u AS=40.56p AD=58.24p PS=25.8u PD=47.2u
* device instance $8 m0 *1 -46.4,108.3 PMOS
XM$8 \$I5 OUT VDD VDD PMOS L=1u W=5.2u AS=14.56p AD=22.36p PS=16u PD=19u
* device instance $9 m0 *1 -13.3,108.3 NMOS
XM$9 \$I5 OUT VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $10 m0 *1 -13.3,104.3 NMOS
XM$10 VSS HIZ \$I6 VSS NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $11 m0 *1 -13.3,100.3 NMOS
XM$11 \$I6 \$I5 VSS VSS NMOS L=1u W=3.4u AS=5.1p AD=13.26p PS=6.4u PD=11.8u
* device instance $12 m0 *1 -11.6,94.3 NMOS
XM$12 VSS \$I6 \$8 VSS NMOS L=1u W=6.8u AS=13.26p AD=19.04p PS=11.8u PD=19.2u
* device instance $13 m0 *1 13.3,102.5 NMOS
XM$13 \$I7 \$I4 \$I9 VSS NMOS L=1u W=3.4u AS=9.52p AD=2.04p PS=12.4u PD=4.6u
* device instance $14 m0 *1 13.3,100.3 NMOS
XM$14 \$I9 \$I5 VSS VSS NMOS L=1u W=3.4u AS=2.04p AD=13.26p PS=4.6u PD=11.8u
* device instance $15 m0 *1 11.6,94.3 NMOS
XM$15 VSS \$I7 \$9 VSS NMOS L=1u W=6.8u AS=13.26p AD=19.04p PS=11.8u PD=19.2u
* device instance $16 m0 *1 8.5,108.3 NMOS
XM$16 \$I4 HIZ VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=14.96p PS=12.4u PD=15.6u
* device instance $17 m0 *1 -13.2,116.2 DN
D$17 VSS OUT DN A=12.96p P=14.4u
* device instance $18 m0 *1 8.6,116.2 DN
D$18 VSS HIZ DN A=12.96p P=14.4u
* device instance $19 r90 *1 -130,-65.5 PMOS
XM$19 PAD VDD VDD VDD PMOS L=2u W=200u AS=1573.04p AD=1300p PS=311.36u PD=252u
* device instance $23 r90 *1 -130,-5.5 PMOS
XM$23 PAD \$8 VDD VDD PMOS L=2u W=300u AS=1950p AD=2223.04p PS=378u PD=437.36u
* device instance $29 r90 *1 130,-65.5 NMOSE
XM$29 PAD VSS VSS VSS NMOSE L=2u W=350u AS=2648.04p AD=2175p PS=504.36u PD=437u
* device instance $36 r90 *1 130,35.5 NMOSE
XM$36 VSS \$9 PAD VSS NMOSE L=2u W=150u AS=875p AD=1348.04p PS=185u PD=252.36u
.ENDS OSS_ESD_5V_DIO
